US20010020103A1
The reaction was carried out in the same manner as in Example 2 except that 10 mL of isopropyl alcohol was used as the alcohol in lieu of methanol. The reaction mixture was treated in the same manner as mentioned above and the organic layer obtained by phase separation was dried and concentrated to give 0.999 g of nearly pure 6-isopropoxycarbonylmethyl-2,2-dimethyl-4H-1,3-dioxin-4-one. The yield of 6-isopropoxycarbonylmethyl-2,2-dimethyl-4H-1,3-dioxin-4-one was 74 mol % based on the starting material 6-chloromethyl-2,2-dimethyl-4H-1,3-dioxin-4-one. The NMR spectrum data on this compound are shown below.

reactant | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
reactant | methanol | CO | CH4O
product | 6-isopropoxycarbonylmethyl-2,2-dimethyl-4H-1,3-dioxin-4-one | C(C)(C)OC(=O)CC1=CC(OC(O1)(C)C)=O | C11H16O5
